US04727145
2-(4-Dibutylaminopropoxyphenyl)-3,8-dimethylimidazo[1,2-a]pyridine
p-Hydroxypropiophenone (50 g, 0.33 mmol) was reacted with 1-bromo-3-chloropropane and the resulting compound reacted with bromine as described in Example 1. The resulting compound was reacted with 3-methyl-2-aminopyridine (1.7 g, 16 mmol) and the product reacted with dibutylamine as described in Example 1 to produce 2.4 g. (62% yield) of the title compound as the HCl salt, mp 202° C. to 204° C. IR(KBr): 3420, 2620, 1650 1605cm-1. MS: 408 (M+). 1H NMR (CD3OD): δ8.58 (d, J=6.5 Hz, 1H), 7.85-7.71 (m, 3H), 7.48 (t, J=6.7 Hz, 1H), 7.22 (d, J=8.7 Hz, 2H), 4.26 (t, J=5.8 Hz, 2H), 3.52-3.16 (m, 6H), 2.75 (s, 3H), 2.73 (s, 3H), 2.33 (m, 2H), 1.87-1.36 (m, 8H), 1.02 (m, 6H).

reactant | p-Hydroxypropiophenone | 0.33 mmol, 50 g | OC1=CC=C(C=C1)C(CC)=O | C9H10O2
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | bromine | BrBr | Br2
reactant | 3-methyl-2-aminopyridine | 16 mmol, 1.7 g | CC=1C(=NC=CC1)N | C6H8N2
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 2-(4-Dibutylaminopropoxyphenyl)-3,8-dimethylimidazo[1,2-a]pyridine | 62% yield | C(CCC)N(CCCC)CCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1C | C26H37N3O
